US07446222B2
6-Chloro-2-iodo-3-[(phenylmethyl)oxy]pyridine
6-Chloro-2-iodo-3-pyridinol (1.28 g, 5 mmol) and silver carbonate (1.52 g, 5.5 mmol) were dissolved in toluene (25 ml) and benzyl bromide (654 μl, 5.5 mmol) added. The mixture was heated to reflux under nitrogen for 1 hour. After cooling, the mixture was filtered, washed with water (×2), dried (MgSO4) and evaporated to an orange oil which was flash chromatographed eluting with 5% ethyl acetate in isohexane to give the title compound as an oil which crystallised on standing. LC/MS t=3.70, [MH+] 346, 348.

reactant | 6-Chloro-2-iodo-3-pyridinol | 5 mmol, 1.28 g | ClC1=CC=C(C(=N1)I)O | C5H3ClINO
reactant | benzyl bromide | 5.5 mmol, 654 μl | C(C1=CC=CC=C1)Br | C7H7Br
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | silver carbonate | 5.5 mmol, 1.52 g | C([O-])([O-])=O.[Ag+2]
product | 6-Chloro-2-iodo-3-[(phenylmethyl)oxy]pyridine | ClC1=CC=C(C(=N1)I)OCC1=CC=CC=C1 | C12H9ClINO
